### PR TITLE
draft: initial fixes for balance.v

### PR DESCRIPTION
**Pull request by gaberlunzie1**

### CODE REVIEW

File: RocqOfRust/revm/revm_interpreter/instructions/links/host/balance.v [hunk 1]
```diff
@@ -43,14 +44,9 @@ Instance run_balance
...
-    (host : '&mut H) :
+    (context : InstructionContext.t H WIRE WIRE_types) :
   Run.Trait
-    instructions.host.balance [] [ Φ WIRE; Φ H ] [ φ interpreter; φ host ]
+    instructions.host.balance [] [ Φ WIRE; Φ H ] [ φ context ]
     unit.
-Proof.
-  constructor.
-  run_symbolic.
-Defined.
```
Comment (clarus) [inline RocqOfRust/revm/revm_interpreter/instructions/links/host/balance.v:54]: This should stay as `Defined`. If the link is not there, it is impossible to then do the simulate.

File: RocqOfRust/revm/revm_context_interface/links/journaled_state.v [hunk 2]
```diff
@@ -95,6 +97,7 @@ Module Impl_Deref_for_StateLoad.
       [] [] [ φ self ] ('& T).
   Proof.
     constructor.
+    destruct (Impl_Deref_for_Cow.run AccountInfo.t).
```
Comment (clarus) [inline RocqOfRust/revm/revm_context_interface/links/journaled_state.v:100]: 👍 

This is typically the kind of thing that I wish we can automate mid-term.

File: RocqOfRust/revm/revm_bytecode/links/bytecode.v [hunk 3]
```diff
@@ -1,5 +1,20 @@
 Require Import links.RocqOfRust.
 
+Module Bytecode.
```
Comment (clarus) [inline RocqOfRust/revm/revm_bytecode/links/bytecode.v:3]: I wonder if the code below could be uncommented (or removed?)

File: RocqOfRust/revm/revm_interpreter/instructions/simulate/host/balance.v [hunk 4]
```diff
@@ -74,76 +111,18 @@ Lemma balance_eq
...
     SimulateM.eval_f
-      (run_balance run_InterpreterTypes_for_WIRE run_Host_for_H ref_interpreter ref_host)
+      (run_balance run_InterpreterTypes_for_WIRE run_Host_for_H context)
       [interpreter; host]%stack 🌲
     (
       Output.Success tt,
       [fst result; snd result]%stack
     )
   }}.
-Proof.
```
Comment (clarus) [inline RocqOfRust/revm/revm_interpreter/instructions/simulate/host/balance.v:87]: The proof should stay until we repair it, instead of going to Admitted, as the repaired proof will probably be similar to this one.
